US08957062B2
Step A Preparation of tert-butyl 4-[(4R)-5-(benzyloxy)-4-hydroxypent-1-yn-1-yl]piperidine-1-carboxylate
Commercially available tert-butyl 4-ethynylpiperidine-1-carboxylate was dissolved in 40 ml of THF and cooled to −78° C. forming a white slurry. Titrated n-BuLi (2.2 M in hexanes, 23.9 ml, 52.6 mmol) was added dropwise with stirring. The clear colorless solution was stirred at −78° C. for 5 minutes. A solution of the R-(+) benzyl glycidyl epoxide (8.63 g, 52.6 mmol) in THF (20 ml) was added dropwise. BF3 etherate (8.43 g, 59.7 mmol) was then added dropwise with a syringe and the solution stirred at −78° C. for 1 hour. Sat'd aq. NH4Cl was added (100 ml), the mixture warmed to RT, diluted with water to dissolve any remaining solids, and extracted with iPrOAc (3×100 ml). The organic fractions were combined, washed with brine, dried over MgSO4, filtered and stripped. Crude product was purified by chromatography on SiO2 eluting with 30% EtOAc:Hexanes. The alcohol was repurified by chromatography on a C18 reversed phase column (12-100% water:acetonitrile 0.1% TFA as two runs.). Product containing fractions were combined, reduced in volume by approximately 50%, —made basic by addition of sat'd aq. NaHCO3, water was added to dissolve some white solids, and the mixture extracted with iPrOAc (3×100). The organic fractions were combined, washed with brine, dried over MgSO4, filtered, and stripped.

reactant | tert-butyl 4-ethynylpiperidine-1-carboxylate | C(#C)C1CCN(CC1)C(=O)OC(C)(C)C | C12H19NO2
reactant | n-BuLi | 52.6 mmol, 2.2 M, 23.9 ml | [Li]CCCC
reactant | BF3 | 59.7 mmol, 8.43 g | B(F)(F)F | BF3
reactant | NH4Cl | [NH4+].[Cl-]
reactant | water | O | H2O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | tert-butyl 4-[(4R)-5-(benzyloxy)-4-hydroxypent-1-yn-1-yl]piperidine-1-carboxylate | C(C1=CC=CC=C1)OC[C@@H](CC#CC1CCN(CC1)C(=O)OC(C)(C)C)O | C22H31NO4
